US06040337
2-(1,2-Epoxy-1,5-dimethyl-4-hexenyl)-1-methylthiomethyl-1,4-cyclohexanediol
To a solution of 5-demethoxyfumagillol (280 mg) in N,N'-dimethylformamide (2 ml), thiomethoxide (220 mg) was added, and the mixture was stirred at room temperature for 1 hour. After adding water (20 ml) thereto, the reaction mixture was extracted with isopropyl ether (50 ml). The organic layer was washed with saturated sodium hydrogen carbonate solution (10 ml) and brine (20 ml), dried over anhydrous magnesium sulfate, and filtered. The residue after distilling off the solvent under reduced pressure was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to obtain 180 mg of the title compound as white solid.

reactant | 5-demethoxyfumagillol | 280 mg | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2C[C@@H](CC[C@]23CO3)O)C | C15H24O3
reactant | thiomethoxide | 220 mg | C[S-]
reactant | water | 20 ml | O | H2O
solvent | N,N'-dimethylformamide | 2 ml | CN(C)C=O | C3H7NO
product | 2-(1,2-Epoxy-1,5-dimethyl-4-hexenyl)-1-methylthiomethyl-1,4-cyclohexanediol | 180 mg | O1C(C1CC=C(C)C)(C)C1C(CCC(C1)O)(O)CSC | C16H28O3S
